US07091353B2
3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid
3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid dimethyl ester (0.91 g, 3.03 mmol) was treated in the same manner as described above for the synthesis of 3-(2-methoxy-ethylamino)-phthalic acid except the pH of crude reaction mixture was adjusted to 2–3 by dropwise addition of concentrated HCl. The solvent was then evaporated in vacuo leaving a dry salt mixture that was used without further purification.

reactant | 3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid dimethyl ester | 3.03 mmol, 0.91 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1C=NC=CC1)=O | C16H16N2O4
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
reactant | HCl | Cl | ClH
product | 3-[(Pyridin-3-ylmethyl)-amino]-phthalic acid | N1=CC(=CC=C1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C14H12N2O4
